US08492372B2
N-{[5-FLUORO-7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}PROPAN-1-AMINE
A mixture of N-[(7-bromo-5-fluoro-4H-1,3-benzodioxin-2-yl)methyl]propan-1-amine (0.23 g, 0.76 mmol), sodium methanesulfinate (0.14 g, 1.13 mmol, 85%), copperiodide (14 mg, 0.08 mmol), L-proline (17 mg, 0.15 mmol), potassium carbonate (21 mg, 0.15 mmol) in DMSO (2.5 ml) was degassed with nitrogen. Heating in a microwave oven at 140° C. for 30 min afforded product, but the starting material was not completely converted. Additional copperiodide (14 mg, 0.08 mmol) and L-proline (17 mg, 0.15 mmol) were added and the mixture was heated once again at 140° C. for 30 min. The mixture was brought to ambient temperature and EtOAc (100 ml) and water (50 ml) were added. The phases were separated and the aqueous phase was extracted with EtOAc (3×50 ml). The organic phases were combined, dried (Na2SO4), filtered and evaporated. Purification had to be done three times, by flash column chromatography (EtOAc/MeOH 8:1) before affording the pure title compound (90 mg, 39%). The amine was converted into the hydrochloric acid salt and crystallized from EtOH/DEE (55 mg). M.p. 194° C. 1H-NMR (400 MHz, MeOH): δ 7.36 (2H, m), δ 5.26 (1H, t, J 4.8 Hz), δ 5.05 (2H, dd, J1 20.8 Hz, J2 16.0 Hz), δ 3.13 (3H, s), δ 2.99 (2H, m), δ 2.66 (2H, t, J 7.6 Hz), δ 1.56 (2H, m), δ 0.95 (3H, t, J 7.6 Hz).

reactant | N-[(7-bromo-5-fluoro-4H-1,3-benzodioxin-2-yl)methyl]propan-1-amine | 0.76 mmol, 0.23 g | BrC=1C=C(C2=C(OC(OC2)CNCCC)C1)F | C12H15BrFNO2
reactant | sodium methanesulfinate | 1.13 mmol, 0.14 g | CS(=O)[O-].[Na+]
reactant | L-proline | 0.15 mmol, 17 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | potassium carbonate | 0.15 mmol, 21 mg | C([O-])([O-])=O.[K+].[K+]
reactant | L-proline | 0.15 mmol, 17 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | DMSO | 2.5 ml | CS(=O)C | C2H6OS
catalyst | copperiodide | 0.08 mmol, 14 mg | [Cu](I)I
catalyst | copperiodide | 0.08 mmol, 14 mg | [Cu](I)I
solvent | water | 50 ml | O | H2O
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | N-{[5-FLUORO-7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}PROPAN-1-AMINE | 90 mg, 39% | FC1=CC(=CC=2OC(OCC21)CNCCC)S(=O)(=O)C | C13H18FNO4S
